US05702641
THF (1.8 l) was added to methoxymethyltriphenylphosphine chloride (350 g, 1.02 mol), followed by adding to the mixture, potassium-t-butoxide (114 g, 1.02 mol), stirring the mixture at the same temperature, for 3 hours, dropwise adding to the reaction solution, a 750 ml THF solution of commercially available 4-trifluoromethoxybenzaldehyde (150.0 g, 0.79 mol), stirring the mixture at the same temperature for one hour, further stirring it at room temperature for 3 hours, adding water (1.5 l) to the reaction solution, extracting the resulting product with ethyl acetate, washing the organic layer successively with a saturated, aqueous solution of sodium bicarbonate and water, drying over magnesium sulfate, distilling off the solvent, purifying the resulting yellow solution according to column chromatography treatment using heptane/ethyl acetate (3/2) as a developing solvent, on silica gel, and distilling the purified product under reduced pressure, by means of Vigoureux tube, to obtain 1-trifluoromethoxy-4-(2-methoxyvinyl)benzene (138 g, 0.63 mol). (b.p. 91° C. under 9 Torr). Yield: 79.7%.

reactant | THF | 1.8 l | C1CCOC1 | C4H8O
reactant | methoxymethyltriphenylphosphine chloride | 1.02 mol, 350 g | [Cl-].COCP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 1.02 mol, 114 g | CC(C)([O-])C.[K+]
reactant | THF | 750 ml | C1CCOC1 | C4H8O
reactant | 4-trifluoromethoxybenzaldehyde | 0.79 mol, 150.0 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
solvent | water | 1.5 l | O | H2O
product | 1-trifluoromethoxy-4-(2-methoxyvinyl)benzene | 0.63 mol, 138 g, Yield: 79.7% | FC(OC1=CC=C(C=C1)C=COC)(F)F | C10H9F3O2
